US07230107B1
Preparation of the Quinoline Ligand
Into a 500 mL 3-neck flask fitted with condenser, addition funnel and a thermometer was added 10.0 g of 2-Amino-4-tert-butylphenol (Aldrich) dissolved in 50.0 mL acetic acid. To the solution was added 3.90 g of 4-(t-butyl)-2-nitrophenol (Aldrich) and 100 mL of concentrated HCl. The contents of the flask were heated to 80° C. by means of an oil bath. Acrolein (Aldrich) (6.78 g) was added over 30 min via the addition funnel. After the addition was complete, the solution was heated to 130° C. for 16 hrs. The solution was allowed to cool to room temperature and then poured into 300 mL cold water and neutralized to pH 7.0 by addition of a 25% NaOH solution. A tan precipitate formed which was extracted from the aqueous solution (3×200 ml methylene chloride). The combined extracts were dried with MgSO4 and concentrated to an oil. The oil was resuspended in methylene chloride and the insoluble materials (unreacted 2-amino-4-tert-butylphenol) filtered off. The filtrate was concentrated to an oil and purified by chromatography on silica gel column eluting with 1:1 chloroform:hexanes to remove the non-polar impurities followed by chloroform to elute the product. The product containing fractions were combined and concentrated to an oil which solidified upon standing. Yield 1.56 g (13%)

reactant | 2-Amino-4-tert-butylphenol | 10.0 g | NC1=C(C=CC(=C1)C(C)(C)C)O | C10H15NO
reactant | 4-(t-butyl)-2-nitrophenol | 3.90 g | C(C)(C)(C)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H13NO3
reactant | HCl | 100 mL | Cl | ClH
reactant | Acrolein | 6.78 g | C(=O)C=C | C3H4O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 50.0 mL | C(C)(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
